US07329764B2
To a solution of 2 M n-BuLi in pentane (0.21 mL, 0.413 mmol) in 1 mL of dry THF under N2 at −78° C. was added 2-fluoro-3-iodo-6-ethoxybenzonitrile (100 mg, 0.344 mmol) in 1 mL of dry THF. The mixture was stirred at −78° C. for 2 h, followed by the addition of bis(pinacolato)diboron (131 mg, 0.516 mmol) in 1 mL of dry THF. The reaction mixture was stirred at −78° C. for 2 h, then warmed up and stirred at room temperature for 18 h. The reaction mixture was concentrated and the residue was purified by silica gel chromatography eluting with 10-40% EtOAc/hexane. The product fractions were collected and concentrated to afford 60 mg (60%) of 6-ethoxy-2-fluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile as an off-white solid.

reactant | n-BuLi | 2 M | [Li]CCCC
reactant | pentane | 0.413 mmol, 0.21 mL | CCCCC | C5H12
reactant | 2-fluoro-3-iodo-6-ethoxybenzonitrile | 0.344 mmol, 100 mg | FC1=C(C#N)C(=CC=C1I)OCC | C9H7FINO
reactant | bis(pinacolato)diboron | 0.516 mmol, 131 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 6-ethoxy-2-fluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile | 60 mg, 60% | C(C)OC1=CC=C(C(=C1C#N)F)B1OC(C(O1)(C)C)(C)C | C15H19BFNO3
